US07872021B2
4-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethoxy]-3-fluoro benzoic acid, methyl ester
227 mg (1.32 mmol) of 3-fluoro-4-hydroxybenzoic acid methyl ester, 278 mg (1.72 mmol) of (2-hydroxyethyl)carbamic acid 1,1-dimethyl ester, and 452 mg (2.12 mmol) of triphenylphosphine are mixed in 10 ml of anhydrous toluene. Cooling takes place to −10° C. and then 349 mg (1.72 mmol) of diisopropyl-azodicarboxylate (DIAD) are slowly added. Agitation takes place at −10° C. for 15 minutes and then for 16 hours at ambient temperature. The solvents are evaporated and then the evaporation residue is purified by silica column chromatography eluting with the help of a toluene/ethyl acetate mixture (100/0 for 30 minutes then 80/20; v/v). The expected product is obtained in the form of a white solid with a yield of 93%.

reactant | 3-fluoro-4-hydroxybenzoic acid methyl ester | 1.32 mmol, 227 mg | COC(C1=CC(=C(C=C1)O)F)=O | C8H7FO3
reactant | triphenylphosphine | 2.12 mmol, 452 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl-azodicarboxylate | 1.72 mmol, 349 mg | C(C)(C)OC(=O)N=NC(=O)OC(C)C | C8H14N2O4
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-[[(1,1-dimethylethoxy)carbonyl]amino]ethoxy]-3-fluoro benzoic acid, methyl ester | yield of 93% | CC(C)(OC(=O)NCCOC1=C(C=C(C(=O)OC)C=C1)F)C | C15H20FNO5
